US04459414
Tetrakis-(p-nitrophenylthio)-phthalimide
2 g (7.02 millimols) of tetrachlorophthalimide, 4.36 g (28.08 millimols) of p-nitrothiophenol, 5.82 g (42.12 millimols) of potassium carbonate and 30 ml of tetrahydrofuran are stirred at 25° C. for 14 hours. The mixture is acidified and extracted with tetrahydrofuran/toluene and the extracts are dried and evaporated. The residue is washed with methylene chloride and recrystallised from dioxane/toluene. This yields 3.02 g (57% of theory) of tetrakis-(p-nitrophenylthio)-phthalimide; melting point 297°-301° C.

reactant | tetrachlorophthalimide | 7.02 millimols, 2 g | ClC=1C(=C(C(=C2C1C(=O)NC2=O)Cl)Cl)Cl | C8HCl4NO2
reactant | p-nitrothiophenol | 28.08 millimols, 4.36 g | [N+](=O)([O-])C1=CC=C(C=C1)S | C6H5NO2S
reactant | potassium carbonate | 42.12 millimols, 5.82 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | Tetrakis-(p-nitrophenylthio)-phthalimide | [N+](=O)([O-])C1=CC=C(C=C1)SC=1C(=C(C(=C2C1C(=O)NC2=O)SC2=CC=C(C=C2)[N+](=O)[O-])SC2=CC=C(C=C2)[N+](=O)[O-])SC2=CC=C(C=C2)[N+](=O)[O-] | C32H17N5O10S4
